US09119868B2
Step 6: 5-Cyclopropyl-2-(4-fluorophenyl)-6-(N-(3-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide
A mixture of 6-(N-(4-bromo-3-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (200 mg, 0.317 mmol), potassium acetate (124 mg, 1.267 mmol), bis(pinacolato)diboron (161 mg, 0.633 mmol) and PdCl2(dppf)-CH2Cl2 adduct (25.9 mg, 0.032 mmol) in 1,4-dioxane (3.0 ml) was maintained at 90° C. in a seal tube under N2 overnight. The mixture was cooled down to room temperature, diluted with EtOAc, filtered through a pad of silic gel and Celite and then concentrated to dryness to give the crude product as tan foam which was used for the next step without further purification. LCMS (m/z, ES+)=679 (M+H+).

reactant | 6-(N-(4-bromo-3-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.317 mmol, 200 mg | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)COCOC | C29H28BrFN2O6S
reactant | potassium acetate | 1.267 mmol, 124 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.633 mmol, 161 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.032 mmol, 25.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-Cyclopropyl-2-(4-fluorophenyl)-6-(N-(3-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)COCOC | C35H40BFN2O8S
